datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si:73](C)(C)[O:12][C:11]1=[CH:10]CCC[O:63]1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>C[Si:73](C)(C)[O+:12]=[C:11]1[CH:10]([CH:20]([C:31]#[C:32][C:33]23C4C5C6C7C2[Cr-3:34]65743(C#[O+])(C#[O+])C#[O+])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)CCC[O:63]1 10,11=10,20;12=11,12"
"C1=CC2=C(C=C1)[S:62][C:11]1=[CH:10]CCC[N:12]21.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2.C[N:10]1CCCC1>>C[N+:10]1([CH:20](C)[N:21]2C3=CC=CC=C3C3=C2C=CC=C3)CCCC1 10=20;20,21=21"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([CH:20]([C:31]34C5C6C7C3[Fe:32]6754389%10C4C3C8C9C4%10)[C:41]34C5C6C7C3[Fe:42]6754389%10C4C3C8C9C4%10)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20
CN(C)C1=CC=C(C[C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1.C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CN(C)C1=CC=C(C[C:10]2([CH:20]([C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])C=C1 10=20
"C1=CC=C(C[Zr:11]23456789([CH2:10]C%10=CC=CC=C%10)(C%10C2C3C4C%105)C2C6C7C8C29)C=C1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>C1=CC=C(C[Zr+:11]23456789(C%10C2C3C4C%105)C2C6C7C8C29)C=C1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10]C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl.[CH:10]1=[CH:11][CH:12]=[CH:13][NH:14]1>>Cl[C:20]1([CH:10]2[CH:11]=[CH:12][CH:13]=[NH+:14]2)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
CC[O:92][C:61]([CH-:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC[O:92][C:61]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([O:37]C)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20
"C1=CC=C([S:61](/[CH:10]=[C:11](\[O-:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)(=[O:62])=[O:72])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](=[O:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[N:61]1[C-:10]=[N+:71](C)[CH:63]=[CH:62]1.C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>CC(C)(C)[N:61]1[C:10]([S:20]C(F)(F)F)=[N+:71](C)[CH:63]=[CH:62]1.C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10=20;20,21=21"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>C1=CC=C([C:20]2([H:10])[S:31]CC[S:41]2)C=C1.C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20"
"CN1CC[N:14]2CCN(C)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23.[CH2:20]=[CH:21][C:22]#[N:23]>>CN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH2:20][CH:21]=[C:22]=[N-:23])[CH:61]=[C:62]3N(C)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1.C[N:12]1CC[N:62](C)[C:11]1=[NH:10]>>COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]([NH:10][C:11]2=[N+:12](C)CC[N:62]2C)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[N:10](C)[NH2:61]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10](C)(C)[NH2:61])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1.[O-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:73]=[CH:72]1>>[O:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:73]=[CH:72]1 10=20;20,21=21,22;22,23=23"
